US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-trifluoromethoxy-benzothiazol-2-yl)-amide
2-amino-4-triflouromethoxybenzothiazol (70 mg, 0.30 mmol) is dissolved in pyridine (3 ml) and treated with 4-dimethylaminopyridine (1 mg) and 5-methyl-thiophene-2-carbonyl chloride (96 mg, 0.60 mmol). After stirring for 4 h at ambient temperature, the reaction mixture was evaporated to dryness. Flash chromatography on silica (eluent ethyl acetate/cyclohexane 1:2) affords the product as white solid. (42 mg, 39% yield). MS: m/e=358 (M+).

reactant | 2-amino-4-triflouromethoxybenzothiazol | 0.30 mmol, 70 mg | NC=1SC2=C(N1)C(=CC=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 5-methyl-thiophene-2-carbonyl chloride | 0.60 mmol, 96 mg | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Methyl-thiophene-2-carboxylic acid (4-trifluoromethoxy-benzothiazol-2-yl)-amide | 39% yield | FC(OC1=CC=CC2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)(F)F | C14H9F3N2O2S2
